US06436929B1
6-(3-Methoxy-phenyl)-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one was prepared, according to the procedure of Example 4 from 6-bromo-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one and 3-methoxyphenyl boronic acid, as a yellow solid: mp 164-165° C.; 1H-NMR (DMSO-d6) δ10.3 (s, 1H), 7.56 (m, 2H), 7.36 (t, 1H, J=7.89Hz), 7.20 (m, 2H), 6.96 (d, 1H, J=8.88 Hz), 6.91 (dd, 1H, J=8.13, 2.35 Hz), 3.8 (s, 3H), 1.7 (s, 6H), MS (ESI) m/z 284 ([M+H]+, 30%); Anal. Calc. For C17H17NO3; C, 72.07; H, 6.05; N, 4.94. Found: C, 70.58; H, 5.73; N, 4.67.

reactant | 6-bromo-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one | BrC1=CC2=C(NC(OC2(C)C)=O)C=C1 | C10H10BrNO2
reactant | 3-methoxyphenyl boronic acid | COC=1C=C(C=CC1)B(O)O | C7H9BO3
product | 6-(3-Methoxy-phenyl)-4,4-dimethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one | COC=1C=C(C=CC1)C1=CC2=C(NC(OC2(C)C)=O)C=C1 | C17H17NO3
